US08476286B2
Synthesis of 4-(4-Isopropyl-phenyl)-6,7-dimethoxy-2-methyl-quinazoline
To 166 mg (1.16 mmol) CuBr in 4 ml THF are added dropwise at −78° C. 773 μl (2.32 mmol) of a 3M solution of methylmagnesium iodide. After stirring for 20 minutes 50 mg (0.145 mmol) 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline are added at the same temperature. After stirring for 1 h the reaction mixture is allowed to reach rt and stirring is continued overnight. After dilution with 50 ml ethyl acetate and filtration the reaction mixture is extracted with brine. Evaporation of the organic phase yields the title compound.

reactant | methylmagnesium iodide | C[Mg]I
reactant | 2-chloro-4-(4-isopropyl-phenyl)-6,7-dimethoxy-quinazoline | 0.145 mmol, 50 mg | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OC)OC | C19H19ClN2O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 4-(4-Isopropyl-phenyl)-6,7-dimethoxy-2-methyl-quinazoline | C(C)(C)C1=CC=C(C=C1)C1=NC(=NC2=CC(=C(C=C12)OC)OC)C | C20H22N2O2
